US07994185B2
Step D: N-(3-{5-(2-Amino-4-pyrimidinyl)-2-[4-(methylsulfonyl)-1-piperazinyl]-1,3-thiazol-4-yl}-2-fluorophenyl)-2,6-difluorobenzenesulfonamide
Following a procedure analogous to Example 51, Step B using N-(3-{5-(2-chloro-4-pyrimidinyl)-2-[4-(methylsulfonyl)-1-piperazinyl]-1,3-thiazol-4-yl}-2-fluorophenyl)-2,6-difluorobenzenesulfonamide (0.140 g, 0.217 mmol) and 7M ammonia in MeOH (25 mL) the title compound was obtained (0.041 g, 30% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 10.88 (br. s., 1H), 7.84 (d, J=5.3 Hz, 1H), 7.63-7.73 (m, 1H), 7.37-7.48 (m, 1H), 7.17-7.34 (m, 4H), 6.58 (br. s., 2H), 5.65 (d, J=5.2 Hz, 1H), 3.60 (br. s., 4H), 3.26 (br. s., 4H), 2.92 (s, 3H). m/z (ES+): 626 [M+H]+.

reactant | N-(3-{5-(2-chloro-4-pyrimidinyl)-2-[4-(methylsulfonyl)-1-piperazinyl]-1,3-thiazol-4-yl}-2-fluorophenyl)-2,6-difluorobenzenesulfonamide | 0.217 mmol, 0.140 g | ClC1=NC=CC(=N1)C1=C(N=C(S1)N1CCN(CC1)S(=O)(=O)C)C=1C(=C(C=CC1)NS(=O)(=O)C1=C(C=CC=C1F)F)F | C24H20ClF3N6O4S3
reactant | ammonia | 7M | N | H3N
solvent | MeOH | 25 mL | CO | CH4O
product | N-(3-{5-(2-Amino-4-pyrimidinyl)-2-[4-(methylsulfonyl)-1-piperazinyl]-1,3-thiazol-4-yl}-2-fluorophenyl)-2,6-difluorobenzenesulfonamide | 30% yield | NC1=NC=CC(=N1)C1=C(N=C(S1)N1CCN(CC1)S(=O)(=O)C)C=1C(=C(C=CC1)NS(=O)(=O)C1=C(C=CC=C1F)F)F | C24H22F3N7O4S3
